US07632838B2
To a stirred solution of 5-[(3R)-3-methylpiperazin-1-yl]pyridine-2-carbonitrile (250 mg, 1.24 mmol) and 3-acetylbenzenesulfonyl chloride (270.3 mg, 1.24 mmol) in anhydrous dichloromethane (4 mL) was added diisopropylethylamine (0.43 mL, 2.48 mmol). The mixture was stirred at room temperature for over night. Reaction was complete as determined by TLC. The reaction mixture was purified via flash column chromatography to yield 5-{(3R)-4-[(3-acetylphenyl)sulfonyl]-3-methylpiperazin-1-yl}pyridine-2-carbonitrile in 80.3% yield (383 mg) as a light yellow solid.

reactant | 5-[(3R)-3-methylpiperazin-1-yl]pyridine-2-carbonitrile | 1.24 mmol, 250 mg | C[C@@H]1CN(CCN1)C=1C=CC(=NC1)C#N | C11H14N4
reactant | 3-acetylbenzenesulfonyl chloride | 1.24 mmol, 270.3 mg | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C8H7ClO3S
reactant | diisopropylethylamine | 2.48 mmol, 0.43 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5-{(3R)-4-[(3-acetylphenyl)sulfonyl]-3-methylpiperazin-1-yl}pyridine-2-carbonitrile | 80.3% yield | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CN(CC1)C=1C=CC(=NC1)C#N)C | C19H20N4O3S
